US08022062B2
6-(4-Benzoylbenzylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 380 to react 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine with 4-(bromomethyl)benzophenone. Purify by preparative reverse phase HPLC (Column: Xterra Prep RP18 19×250 mm; Solvent A: 10 mM aqueous ammonium carbonate, Solvent B: acetonitrile; 30-100% B over 20 minutes; flow rate 25 mL/ruin). Use a method similar to the General Procedure 2-2 to give the title compound as a white solid. MS (ES+) m/z: 408 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 4-(bromomethyl)benzophenone | BrCC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C14H11BrO
product | 6-(4-Benzoylbenzylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.C(C1=CC=CC=C1)(=O)C1=CC=C(CSC2=C(C=CC=3CCNCCC32)Cl)C=C1 | InChI=1S/C24H22ClNOS.ClH/c25-22-11-10-18-12-14-26-15-13-21(18)24(22)28-16-17-6-8-20(9-7-17)23(27)19-4-2-1-3-5-19;/h1-11,26H,12-16H2;1H
